US08304036B2
3.0 g (12.0 mmol) of 2-(4-propylphenyl)selenophene are initially introduced in 30 ml of diethyl ether, and 9.4 ml (15.0 mmol, 15% soln. in hexane) of n-BuLi are metered in rapidly. The mixture is heated under reflux for 30 min and subsequently cooled to −70° C. 3.0 ml (48.2 mol) of methyl iodide are added in one portion, and the mixture is warmed to RT and stirred for 3 h. Sat. ammonium chloride soln. and conc. ammonia soln. are added, and the batch is stirred vigorously for a few minutes. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with 2 N hydrochloric acid and sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:EtOAc=20:1→10:1→5:1). The further purification is carried out by flash chromatography (SiO2 RP-18, ACN:water=9:1); 2-methyl-5-(4-propylphenyl)selenophene is obtained as a colourless solid (m.p. 31° C.).

reactant | 2-(4-propylphenyl)selenophene | 12.0 mmol, 3.0 g | C(CC)C1=CC=C(C=C1)C=1[Se]C=CC1 | C13H14Se
reactant | n-BuLi | 15.0 mmol, 9.4 ml | [Li]CCCC
reactant | methyl iodide | 48.2 mol, 3.0 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-methyl-5-(4-propylphenyl)selenophene | CC=1[Se]C(=CC1)C1=CC=C(C=C1)CCC | C14H16Se
